US05760050
8-Methoxy-3-(4-methyl-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
A solution of 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one (1.2 g, 5.2 mmol) and 4-methylbenzaldehyde (0.68 g, 5.7 mmol) in 20 mL of tetrahydrofuran and 7 mL of 1,3-dimethyl-2-imidazolidinone is treated with glacial acetic acid (0.29 mL, 5.2 mmol). The mixture is stirred for 10 minutes, and then sodium triacetoxyborohydride (1.6 g, 7.5 mmol) is added in portions over 30 minutes. The mixture is stirred for 16 hours, then added to 300 mL of ice water. The precipitated solid is filtered, washed with water, and recrystallized from ethyl acetate to yield 1.2 g (70%) of product, mp 147°-149° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | 5.2 mmol, 1.2 g | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 4-methylbenzaldehyde | 5.7 mmol, 0.68 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | acetic acid | 5.2 mmol, 0.29 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 7.5 mmol, 1.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-2-imidazolidinone | 7 mL | CN1C(N(CC1)C)=O | C5H10N2O
product | 8-Methoxy-3-(4-methyl-benzyl)-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | 1.2 g, 70% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC1=CC=C(C=C1)C)=O | C21H21NO3
